US06355653B1
2-Furan-2-yl-7-(2-methyl-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, mp. 100-101° C. and MS (EI) m/e (%): 291 (M+, 100), was prepared in accordance with the general method of example 1 from 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole and (E)-3-(2-methyl-pyridin-4-yl)-acrylonitrile.

reactant | 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C=1OC=CC1 | C13H11N3O3S
reactant | (E)-3-(2-methyl-pyridin-4-yl)-acrylonitrile | CC1=NC=CC(=C1)/C=C/C#N | C9H8N2
product | 2-Furan-2-yl-7-(2-methyl-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | O1C(=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC(=NC=C2)C)=N1 | C16H13N5O
